US05208247
3-(1,1-Dimethylethyl)-4-(tetradecyloxy)benzoic acid methyl ester
A mixture of 30.0 g 3-(1,1-dimethylethyl)-4-hydroxybenzoic acid methyl ester, 42.9 ml of 1-bromotetradecane, 47.8 g of potassium carbonate and 700 ml of acetone is refluxed for 48 hours. The cooled reaction is filtered, concentrated in vacuo and purified by column chromatography (silica gel:0-3% ethyl acetate/hexane) to give 38.8 g of the desired product as colorless prisms.

reactant | 3-(1,1-dimethylethyl)-4-hydroxybenzoic acid methyl ester | 30.0 g | COC(C1=CC(=C(C=C1)O)C(C)(C)C)=O | C12H16O3
reactant | 1-bromotetradecane | 42.9 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 47.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | 3-(1,1-Dimethylethyl)-4-(tetradecyloxy)benzoic acid methyl ester | 38.8 g | COC(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)C(C)(C)C)=O | C26H44O3
